US07399812B2
Preparation of 2,2-di-iso-butyl-1-methoxy-3-[(trimethylsilyl)oxy]-propane
According to the procedure as described in Example 1,2,2-di-iso-butyl-1-methoxy-3-[(trimethylsilyl)oxy]propane was prepared from intermediate 2,2-di-iso-butyl-3-methoxy-1-propanol and reagent trimethylsilyl chloride.

reactant | 2,2-di-iso-butyl-3-methoxy-1-propanol | C(C(C)C)C(CO)(COC)CC(C)C | C12H26O2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
product | 2,2-di-iso-butyl-1-methoxy-3-[(trimethylsilyl)oxy]-propane | C(C(C)C)C(COC)(CO[Si](C)(C)C)CC(C)C | C15H34O2Si
